US07799822B2
Prepared using general procedure 16. To N-(thiazol-2-yl)-4-(1-(2,2,2-trifluoroacetyl)piperidin-4-yl)benzenesulfonamide (1.5 g, 3.57 mmol) was added a solution of NaOH (1.43 g in 25 ml of H2O). The reaction was stirred at RT for 30 minutes. The pH was adjusted to 10 with HOAc, and the product crashed out as a pink solid which was then filtered, azeotroped with acetonitrile and dried to give 4-(piperidin-4-yl)-N-(thiazol-2-yl)benzenesulfonamide (1 g, 87% yield). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=324.3; tR=0.46 min.

reactant | N-(thiazol-2-yl)-4-(1-(2,2,2-trifluoroacetyl)piperidin-4-yl)benzenesulfonamide | 3.57 mmol, 1.5 g | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C=C1)C1CCN(CC1)C(C(F)(F)F)=O | C16H16F3N3O3S2
reactant | NaOH | 25 ml, 1.43 g | [OH-].[Na+]
solvent | HOAc | CC(=O)O | C2H4O2
product | 4-(piperidin-4-yl)-N-(thiazol-2-yl)benzenesulfonamide | 1 g, 87% yield | N1CCC(CC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C14H17N3O2S2
